US05668160
A mixture of part of the sample of isomer 1 of 2-(2-methylphenoxymethyl) benzoyl cyanide O-methyloxime (280 mg), hydroxylamine hydrochloride (80 mg) and triethylamine (110 mg) in methanol (5 ml) was heated under reflux for 5 hours. The reaction mixture was concentrated and the residue, dissolved in ethyl acetate, was washed with water, dried, concentrated, and chromatographed using ethyl acetate:hexane (1:1) as eluant to give two stereoisomers of 2-[2-(2-methylphenoxymethyl)phenyl]-2-methoxyimino acetamide oxime. Isomer I (200 mg, 67% yield), eluted first, was a white solid, mp 140° C., 1H NMR (CDCl3): δ 2.3 (3H,s), 4.0 (3H,s) and 5.05 (2H,s) ppm. Isomer II (100 mg, 33% yield), was also a white solid, mp 110°-2° C., 1H NMR (CDCl3): δ 2.3 (3H,s), 4.0 (3H,s) and 5.2 (2H,s) ppm.

reactant | 2-(2-methylphenoxymethyl) benzoyl cyanide O-methyloxime | 280 mg | CON=C(C1=C(C=CC=C1)COC1=C(C=CC=C1)C)C#N | C17H16N2O2
reactant | hydroxylamine hydrochloride | 80 mg | Cl.NO
reactant | triethylamine | 110 mg | C(C)N(CC)CC | C6H15N
solvent | methanol | 5 ml | CO | CH4O
product | 2-[2-(2-methylphenoxymethyl)phenyl]-2-methoxyimino acetamide oxime | 67% yield | CC1=C(OCC2=C(C=CC=C2)C(C(N)=NO)=NOC)C=CC=C1 | C17H19N3O3
